US08138187B2
2-(5,6-Dichloro-1H-indol-3-yl)ethanol (Ind-83)
A 1 M borane/THF solution (28.0 ml. 28.0 mmol) was added to a solution of the (5,6-dichloro-3-hydroxy-2-oxo-2,3-dihydro-1H-indol-3-yl)acetic acid ethyl ester just prepared (2.13 g, 7.0 mmol), in abs. tetrahydrofuran (15 ml), in an ice bath in the course of 15 min. The reaction mixture was stirred at room temperature for 57 h and, for working up, was added to a mixture of ethyl acetate (50 ml) and water (50 ml), while stirring. The phases were separated and the aqueous phase was extracted with ethyl acetate (2×30 ml). The organic phases were combined, dried and concentrated. The crude indole was obtained as a yellow oil (1.9 g) by this procedure. Purification by chromatography [silica gel G (80 g); ethyl acetate/cyclohexane 1:2 (2 l)] gave the desired 2-(5,6-dichloro-1H-indol-3-yl)ethanol (Ind-83) as a beige-coloured solid in a yield of 60% (0.96 g) (m.p. 65-67° C.).

reactant | borane THF | 28.0 mmol, 1 M, 28.0 ml | B.C1CCOC1
reactant | (5,6-dichloro-3-hydroxy-2-oxo-2,3-dihydro-1H-indol-3-yl)acetic acid ethyl ester | C(C)OC(CC1(C(NC2=CC(=C(C=C12)Cl)Cl)=O)O)=O | C12H11Cl2NO4
reactant | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 50 ml | O | H2O
product | 2-(5,6-Dichloro-1H-indol-3-yl)ethanol | 1.9 g, yield of 60% | ClC=1C=C2C(=CNC2=CC1Cl)CCO | C10H9Cl2NO
